US05952386
A reaction vessel was charged with 5.25 g (21.2 mmol) of 3-(4-(trifluoromethyl)benzamido)propan-1-ol, 5.72 g (21.2 mmol) of 4-benzyloxy-2,6-dichlorophenol, 5.29 g (20.2 mmol) of triphenylphosphine and 100 ml of tetrahydrofuran, and a solution of 4.08 g (20.2 mmol) of diisopropyl azodicarboxylate dissolved in 20 ml of tetrahydrofuran was added dropwise, while stirring. After stirring at room temperature for 12 hours, the reaction mixture was concentrated, and the residue was subjected to silica gel chromatography, which afforded 1-benzyloxy-3,5-dichloro-4-(3-(4-trifluoromethylbenzamido)propyloxy)benzene. 1-Benzyloxy-3,5-dichloro-4-(3-(4-trifluoromethylbenzamido)propyloxy)benzene was dissolved in ethyl acetate, which was put into a reaction vessel, and the air in the vessel was replaced with nitrogen gas. A catalytic amount of 10% palladium on carbon was added, and the nitrogen gas in the vessel was replaced with hydrogen gas, followed by vigorous stirring at room temperature for 24 hours. The hydrogen gas in the vessel was replaced with nitrogen gas, after which the reaction mixture was filtered through cerite and the filtrate was concentrated to give 3,5-dichloro-4-(33-(4-trifluoromethylbenzamido)propyloxy)phenol.

reactant | 3-(4-(trifluoromethyl)benzamido)propan-1-ol | 21.2 mmol, 5.25 g | FC(C1=CC=C(C(=O)NCCCO)C=C1)(F)F | C11H12F3NO2
reactant | 4-benzyloxy-2,6-dichlorophenol | 21.2 mmol, 5.72 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=C1)Cl)O)Cl | C13H10Cl2O2
reactant | triphenylphosphine | 20.2 mmol, 5.29 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 20.2 mmol, 4.08 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-benzyloxy-3,5-dichloro-4-(3-(4-trifluoromethylbenzamido)propyloxy)benzene | C(C1=CC=CC=C1)OC1=CC(=C(C(=C1)Cl)OCCCNC(C1=CC=C(C=C1)C(F)(F)F)=O)Cl | C24H20Cl2F3NO3
